US05179206
A solution of 5.4 g of sodium cyanide in 20 ml of water and a solution of 14.7 g of 3-phenylpropionaldehyde in 15 ml of methanol are added dropwise with ice-cooling to a mixture of 12.8 g of 1-amino-2,6-dimethylpiperidine, 60 ml of water and 9.4 ml of concentrated hydrochloric acid. The pH is adjusted to 7 with hydrochloric acid and the reaction mixture is stirred at room temperature for 3 days. The mixture is extracted with dichloromethane, and the combined extracts are washed with water of pH 4 containing hydrochloric acid, dried and concentrated in a rotary evaporator. 28.9 g of 2-((2,6-dimethylpiperidino)amino)-4-phenylbutyronitrile are obtained, which are employed in the following step without further purification.

reactant | sodium cyanide | 5.4 g | [C-]#N.[Na+]
reactant | 3-phenylpropionaldehyde | 14.7 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | 1-amino-2,6-dimethylpiperidine | 12.8 g | NN1C(CCCC1C)C | C7H16N2
reactant | hydrochloric acid | 9.4 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 2-((2,6-dimethylpiperidino)amino)-4-phenylbutyronitrile | 28.9 g | CC1N(C(CCC1)C)NC(C#N)CCC1=CC=CC=C1 | C17H25N3
